US08252826B2
8.2 4-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid
In analogy to the procedure described in example 2, 4-{2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester was hydrolysed using aqueous sodium hydroxide solution in MeOH to give the title compound as off-white solid. MS: m/e=481.4 [M+H+].

reactant | 4-{2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)SCC(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)=O | C28H31ClN2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 4-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid | ClC1=CC=C(C=C1)N1N=C2C(=C1C(CSC1=CC=C(C(=O)O)C=C1)C1CCCCC1)CCC2 | C27H29ClN2O2S
